US08106221B2
To a 0° C. solution of tert-butyl 3-(2-aminoethoxy)-3-(3-chlorophenyl)propyl(methyl)carbamate (6 g, 4.11 mmol), Et3N (1.25 g, 12.3 mL), DMAP (0.25 g, 2.06 mmol) in dry CH2Cl2 (100 mL), methyl chloroformate (1.9 g, 20.6 mmol) in dry CH2Cl2 (30 mL) was added drop wise. After addition, the reaction mixture was stirred for 1-2 h at 0-5° C. The reaction was quenched with water. The aqueous layer was extracted with CH2Cl2, the combined organic layers were washed with 10% citric acid and brine, then dried over Na2SO4, filtered and concentrated to the crude product. The crude product was purified by silica gel to afford tert-butyl 3-(2-(methoxycarbonyl)aminoethoxy)-3-(3-chlorophenyl)propyl(methyl)carbamate (600 mg, 40%). 1H NMR (CDCl3, 400 MHz) δ 1.49 (s, 9H), 1.83 (m, 2H), 2.80 (s, 3H), 3.31 (m, 7H), 3.65 (s, 3H), 4.13 (m, 1H), 7.26 (m, 4H).

reactant | tert-butyl 3-(2-aminoethoxy)-3-(3-chlorophenyl)propyl(methyl)carbamate | 4.11 mmol, 6 g | NCCOC(CCN(C(OC(C)(C)C)=O)C)C1=CC(=CC=C1)Cl | C17H27ClN2O3
reactant | Et3N | 12.3 mL, 1.25 g | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 20.6 mmol, 1.9 g | ClC(=O)OC | C2H3ClO2
catalyst | DMAP | 2.06 mmol, 0.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(2-(methoxycarbonyl)aminoethoxy)-3-(3-chlorophenyl)propyl(methyl)carbamate | 600 mg, 40% | COC(=O)NCCOC(CCN(C(OC(C)(C)C)=O)C)C1=CC(=CC=C1)Cl | C19H29ClN2O5
